US07615643B2
1,1-Dimethylethyl 4-({3-[(1R)-1-({5-(5-bromo-1H-benzimidazol-1-yl)-2-[(methyloxy)carbonyl]-3-thienyl}oxy)ethyl]-2-chlorophenyl}oxy)-1-piperidinecarboxylate
The title compound was prepared from methyl 5-(5-bromo-1H-benzimidazol-1-yl)-3-hydroxy-2-thiophenecarboxylate (0.64 g, 1.8 mmol) and 1,1-dimethylethyl 4-({2-chloro-3-[(1S)-1-hydroxyethyl]phenyl}oxy)-1-piperidinecarboxylate (0.78 g, 2.2 mmol) using a procedure analogous to Intermediate 2, Step C to give 1.22 g of the desired product. MS (ESI): 692.4 [M+H]+.

reactant | methyl 5-(5-bromo-1H-benzimidazol-1-yl)-3-hydroxy-2-thiophenecarboxylate | 1.8 mmol, 0.64 g | BrC1=CC2=C(N(C=N2)C2=CC(=C(S2)C(=O)OC)O)C=C1 | C13H9BrN2O3S
reactant | 1,1-dimethylethyl 4-({2-chloro-3-[(1S)-1-hydroxyethyl]phenyl}oxy)-1-piperidinecarboxylate | 2.2 mmol, 0.78 g | ClC1=C(C=CC=C1[C@H](C)O)OC1CCN(CC1)C(=O)OC(C)(C)C | C18H26ClNO4
product | 1,1-Dimethylethyl 4-({3-[(1R)-1-({5-(5-bromo-1H-benzimidazol-1-yl)-2-[(methyloxy)carbonyl]-3-thienyl}oxy)ethyl]-2-chlorophenyl}oxy)-1-piperidinecarboxylate | 1.22 g | BrC1=CC2=C(N(C=N2)C2=CC(=C(S2)C(=O)OC)O[C@H](C)C=2C(=C(C=CC2)OC2CCN(CC2)C(=O)OC(C)(C)C)Cl)C=C1 | C31H33BrClN3O6S
